US08242150B2
1-(4-Ethynyl-2-fluorophenyl)-4-methyl-1H-imidazole
3,4-Difluorobenzaldehyde (4.82 g, 33.9 mmol), 4-methylimidazole (5.57 g, 67.8 mmol), and K2CO3 (7.03 g, 50.9 mmol) were dissolved in 35 ml of DMF and stirred at 100° C. overnight. Cooled to room temperature and DMF removed in vacuo. The concentrated mass was taken up in EtOAc and water. Layers were separated and the aqueous layer was extracted twice with EtOAc. The organic extracts were combined, dried (Na2SO4), and concentrated. Chromatography on SiO2 (0-75% EtOAc/CH2Cl2) gave a cream-colored solid (mixture of isomers). This mass was taken up in a minimum amount of EtOH and treated with water until the formation of a precipitate. The precipitate was collected as a white solid and yielded 522.5 mg (2.6 mmol, 8%) after drying under high vacuum overnight. A solution of aldehyde intermediate (516 mg, 2.53 mmol) in 20 ml of MeOH was treated with K2CO3 (698 mg, 5.05 mmol) and a solution of dimethyl (1-diazo-2-oxopropyl)phosphonate (583 mg, 3.03 mmol) in 10 ml of MeOH and stirred at room temperature for 2.5 hours. MeOH was removed in vacuo and the concentrated mass was dissolved in aqueous NaHCO3 and EtOAc. Layers were separated and the aqueous layer was extracted twice with EtOAc. The organic extracts were combined, dried (Na2SO4), and concentrated to a yellow powder (506 mg, 2.5 mmol, 100%).

reactant | 3,4-Difluorobenzaldehyde | 33.9 mmol, 4.82 g | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | 4-methylimidazole | 67.8 mmol, 5.57 g | CC=1N=CNC1 | C4H6N2
reactant | K2CO3 | 50.9 mmol, 7.03 g | C(=O)([O-])[O-].[K+].[K+]
reactant | K2CO3 | 5.05 mmol, 698 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethyl (1-diazo-2-oxopropyl)phosphonate | 3.03 mmol, 583 mg | [N+](=[N-])=C(C(C)=O)P(OC)(OC)=O | C5H9N2O4P
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
solvent | MeOH | 20 ml | CO | CH4O
solvent | MeOH | 10 ml | CO | CH4O
solvent | water | O | H2O
solvent | EtOH | CCO | C2H6O
product | 1-(4-Ethynyl-2-fluorophenyl)-4-methyl-1H-imidazole | C(#C)C1=CC(=C(C=C1)N1C=NC(=C1)C)F | C12H9FN2
